US04804668
Methyl amine (0.5 ml) was added to a stirred solution of methyl 4-methyl-5-(4-pyridinyl)-thiazole-2-carboxylate (250 mg) in absolute ethanol (10 ml) at room temperature, and the mixture was stirred at room temperature for overnight. The mixture was evaporated to dryness and the residue was recrystallized from iso-propanol to give N,4-dimethyl-5-(4-pyridinyl)-thiazole-2-carboxamide (200 mg, yield 80.0%) as pale yellow needles.

reactant | Methyl amine | 0.5 ml | CN | CH5N
reactant | methyl 4-methyl-5-(4-pyridinyl)-thiazole-2-carboxylate | 250 mg | CC=1N=C(SC1C1=CC=NC=C1)C(=O)OC | C11H10N2O2S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N,4-dimethyl-5-(4-pyridinyl)-thiazole-2-carboxamide | 200 mg, yield 80.0% | CNC(=O)C=1SC(=C(N1)C)C1=CC=NC=C1 | C11H11N3OS
